US06642229B2
7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2] dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine (0.1 g, 0.29 mmol) was coupled to 2-bromopyridine (55 μl, 0.59 mmol) as described in Example 26 to give 7-methyl-3-[3-(pyridin-2-yl)phenyl]imidazo[1,2-a]pyrimidine as a white solid (30 mg): δH (400 MHz, CDCl3) 2.67 (3H, s), 6.79 (1H, d, J 7), 7.30 (1H, m 7.55-7.65 (2H, m), 7.77-7.81 (2H, m), 7.87 (1H, s), 8.00 (1H, dd, J 8 and 1.6), 8.19 (1H, d, J 1.5), 8.57 (1H, d, J 7), 8.71 (1H, d, J 1.6); m/z (ES+) 287 (M++H).

reactant | 7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2] dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine | 0.29 mmol, 0.1 g | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O2
reactant | 2-bromopyridine | 0.59 mmol, 55 μl | BrC1=NC=CC=C1 | C5H4BrN
product | 7-methyl-3-[3-(pyridin-2-yl)phenyl]imidazo[1,2-a]pyrimidine | 30 mg | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)C2=NC=CC=C2 | C18H14N4
